US08183264B2
(4-Butoxymethyl-phenyl)-methanol
To a mixture of 4-butoxymethyl-benzylamine (250 mg) described in Manufacturing Example 43-2, acetic acid (2 mL), and water (2 mL) was added sodium nitrite (1.1 g) at 0° C., which was stirred for 40 minutes at room temperature. The reaction mixture was added to a mixture of ethyl acetate and water, and then extracted. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and then with saturated brine. The solvent was evaporated from the organic layer under a reduced pressure. Methanol (2 mL) and potassium carbonate (360 mg) were added to the residue, and the reaction mixture was stirred for 1.5 hours at room temperature. The solvent was evaporated from the reaction mixture under a reduced pressure. The residue was purified by neutral silica gel column chromatography (ethyl acetate:heptane=1:1) to obtain the titled compound (200 mg).

reactant | 4-butoxymethyl-benzylamine | 250 mg | C(CCC)OCC1=CC=C(CN)C=C1 | C12H19NO
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 1.1 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 2 mL | O | H2O
product | (4-Butoxymethyl-phenyl)-methanol | 200 mg | C(CCC)OCC1=CC=C(C=C1)CO | C12H18O2
